### PR TITLE
[Merged by Bors] - Feat(Algebra/Module/Torsion): Fill out isTorsionBy API.

### PR DESCRIPTION
**Pull request by Shamrock-Frost**
This PR connects regularity to `torsionBy` and fills out some missing parallels between `IsTorsionBySet` and `IsTorsionBy`.

---

- [x] depends on: #13102

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Torsion.lean [hunk 1]
```diff
@@ -231,6 +231,11 @@ end Module
 
 end Defs
 
+lemma IsSMulRegular.isSMulRegular_iff_torsionBy_top_eq_bot {R} (M : Type*)
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Torsion.lean:234]:
```suggestion
lemma isSMulRegular_iff_torsionBy_top_eq_bot {R} (M : Type*)
```

File: Mathlib/Algebra/Module/Torsion.lean [hunk 2]
```diff
@@ -503,49 +517,104 @@ end Submodule
...
-      show b₁ • x = b₂ • x from by
-        have : (-b₁ + b₂) • x = 0 := @hM x ⟨_, QuotientAddGroup.leftRel_apply.mp h⟩
-        rw [add_smul, neg_smul, neg_add_eq_zero] at this
-        exact this
+def IsTorsionBySet.hasSMul (hM : IsTorsionBySet R M I) : SMul (R ⧸ I) M where
+  smul b x := I.liftQ (LinearMap.lsmul R M)
+                ((isTorsionBySet_iff_subseteq_ker_lsmul _).mp hM) b x
 #align module.is_torsion_by_set.has_smul Module.IsTorsionBySet.hasSMul
 
+/-- See documentation for `IsTorsionBySet.hasSMul`. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Torsion.lean:528]: Let's save the user a bit of time
```suggestion
/-- can't be an instance because hM can't be inferred -/
```

File: Mathlib/Algebra/Module/Torsion.lean [hunk 3]
```diff
@@ -503,49 +517,104 @@ end Submodule
...
 Not an instance because it causes synthesis failures / timeouts. -/
 def quotientAnnihilator : Module (R ⧸ Module.annihilator R M) M :=
   (isTorsionBySet_annihilator R M).module
 
+theorem isTorsionBy_quotient_iff (N : Submodule R M) (r : R) :
+    IsTorsionBy R (M⧸N) r ↔ ∀ x, r • x ∈ N :=
+  Iff.trans N.mkQ_surjective.forall <| forall_congr' fun _ =>
+    Submodule.Quotient.mk_eq_zero N
+
+theorem isTorsionBy_quotient_of_isTorsionBy (N : Submodule R M) (r : R)
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Torsion.lean:572]: By putting it in a namespace, we enable dot notation.
```suggestion
theorem IsTorsionBy.quotient (N : Submodule R M) (r : R)
```
Arguably `r` could be implicit, since it is determined by `h`. I'll leave that choice up to you.

File: Mathlib/Algebra/Module/Torsion.lean [hunk 4]
```diff
@@ -503,49 +517,104 @@ end Submodule
...
+    (h : IsTorsionBy R M r) : IsTorsionBy R (M⧸N) r :=
+  (isTorsionBy_quotient_iff N r).mpr fun x => @h x ▸ N.zero_mem
+
+theorem isTorsionBySet_quotient_iff (N : Submodule R M) (s : Set R) :
+    IsTorsionBySet R (M⧸N) s ↔ ∀ x, ∀ r ∈ s, r • x ∈ N :=
+  Iff.trans N.mkQ_surjective.forall <| forall_congr' fun _ =>
+    Iff.trans Subtype.forall <| forall₂_congr fun _ _ =>
+      Submodule.Quotient.mk_eq_zero N
+
+theorem isTorsionBySet_quotient_of_isTorsionBySet (N : Submodule R M) {s}
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Torsion.lean:582]:
```suggestion
theorem IsTorsionBySet.quotient (N : Submodule R M) {s}
```

File: Mathlib/Algebra/Module/Torsion.lean (hunk 3 above)
Comment (Shamrock-Frost) [reply Mathlib/Algebra/Module/Torsion.lean:572]: Oops, `r` should definitely be implicit here. Not sure why it isn't

File: Mathlib/Algebra/Module/Torsion.lean [hunk 5]
```diff
@@ -503,49 +517,104 @@ end Submodule
...
+lemma isTorsionBySet_quotient_ideal_smul :
+    IsTorsionBySet R (M⧸I • (⊤ : Submodule R M)) I :=
+  (isTorsionBySet_quotient_iff _ _).mpr fun _ _ h => smul_mem_smul h ⟨⟩
+
+instance : Module (R ⧸ Ideal.span s) (M ⧸ s • (⊤ : Submodule R M)) :=
+  ((isTorsionBySet_iff_is_torsion_by_span s).mp
+    (isTorsionBySet_quotient_set_smul M s)).module
+
+instance : IsScalarTower R (R ⧸ Ideal.span s) (M ⧸ s • (⊤ : Submodule R M)) :=
+  IsTorsionBySet.isScalarTower _
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Torsion.lean:608]: `inferInstance` can already find this.

File: Mathlib/Algebra/Module/Torsion.lean [hunk 6]
```diff
@@ -503,49 +517,104 @@ end Submodule
...
+
 instance : Module (R ⧸ I) (M ⧸ I • (⊤ : Submodule R M)) :=
-  IsTorsionBySet.module (R := R) (I := I) fun x r => by
-    induction x using Quotient.inductionOn
-    refine' (Submodule.Quotient.mk_eq_zero _).mpr (Submodule.smul_mem_smul r.prop _)
-    trivial
+  (isTorsionBySet_quotient_ideal_smul M I).module
+
+instance : IsScalarTower R (R ⧸ I) (M ⧸ I • (⊤ : Submodule R M)) :=
+  IsTorsionBySet.isScalarTower _
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Torsion.lean:614]: `inferInstance` can already find this.

File: Mathlib/Algebra/Module/Torsion.lean (hunk 5 above)
Comment (Shamrock-Frost) [reply Mathlib/Algebra/Module/Torsion.lean]: removed, thanks!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
